US07642264B2
2-(4-Bromo-imidazol-1-yl)-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine (example A.10) (0.5 g, 1.35 mmol) and commercially available 4-bromo-imidazole (0.30 g, 2.02 mmol) according to the general procedure IVa. Obtained as a white solid (0.47 g, 72%). MS (ISP) 483.0 [(M+H)+]; mp 147.5° C.

reactant | 2-chloro-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | 1.35 mmol, 0.5 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC)C(F)(F)F | C14H9ClF6N2O
reactant | 4-bromo-imidazole | 2.02 mmol, 0.30 g | BrC=1N=CNC1 | C3H3BrN2
product | 2-(4-Bromo-imidazol-1-yl)-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC)C(F)(F)F | C17H11BrF6N4O
